US04500343
Two grams of 4-chloro-N-[3-(1,1-dimethylethyl)-5-isoxazolyl]-2-methylbutanamide was added by portion to a stirring solution of 0.6 g of powdered potassium hydroxide dissolved in 2 ml of water and 5 ml of ethanol. The reaction mixture was heated to reflux for 15 minutes, cooled and poured into 20 ml of water. The precipitated solid was collected by filtration to afford 1.5 g of 1-[3-(1,1-dimethylethyl)-5-isoxazolyl]-3-methyl-2-pyrrolidinone. Yield 87%. mp 73°-75° C.

reactant | 4-chloro-N-[3-(1,1-dimethylethyl)-5-isoxazolyl]-2-methylbutanamide | Two grams | ClCCC(C(=O)NC1=CC(=NO1)C(C)(C)C)C | C12H19ClN2O2
reactant | potassium hydroxide | 0.6 g | [OH-].[K+]
solvent | water | 2 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 1-[3-(1,1-dimethylethyl)-5-isoxazolyl]-3-methyl-2-pyrrolidinone | 1.5 g, Yield 87% | CC(C)(C)C1=NOC(=C1)N1C(C(CC1)C)=O | C12H18N2O2
